US04367234
5-Hydroxy-5-phenyl-2,4,6(1H,3H,5H)-pyrimidinetrione (0.7 g.) is dissolved in 15 ml. of 1 N sodium hydroxide, stirred at room temperature for 15 minutes, extracted with ethyl acetate, made slightly acidic with about 1 ml. of glacial acetic acid, and extracted with 25 ml. of ethyl acetate. The latter ethyl acetate extract is back washed with about 6.5 ml. of water, filtered over a bed of anhydrous magnesium sulfate and evaporated to yield 5-phenyloxazolidine-2,4-dione.

reactant | 5-Hydroxy-5-phenyl-2,4,6(1H,3H,5H)-pyrimidinetrione | 0.7 g | OC1(C(NC(NC1=O)=O)=O)C1=CC=CC=C1 | C10H8N2O4
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | 5-phenyloxazolidine-2,4-dione | C1(=CC=CC=C1)C1C(NC(O1)=O)=O | C9H7NO3
